US07678798B2
1-Chloro-6-(trifluoromethyl)indane
6-(Trifluoromethyl)indan-1-ol (1.52 g, 7.5 mmol) was dissolved in thionyl chloride (15 mL). After being stirred at room temperature for 2 hrs, the solution was concentrated in vacuo to provide the title compound (1.5 g, 90%).

reactant | 6-(Trifluoromethyl)indan-1-ol | 7.5 mmol, 1.52 g | FC(C1=CC=C2CCC(C2=C1)O)(F)F | C10H9F3O
reactant | thionyl chloride | 15 mL | S(=O)(Cl)Cl | Cl2OS
product | 1-Chloro-6-(trifluoromethyl)indane | 1.5 g, 90% | ClC1CCC2=CC=C(C=C12)C(F)(F)F | C10H8ClF3
